US06734180B1
Using 5-acetoxy-2-(tert-butoxycarbonylamino)indan (120 mg, 0.40 mmol), 4N hydrochloric acid-dioxane (2 ml) and acetic acid (6 ml), a similar procedure to Example 24 was carried out to obtain 5-acetoxy-2-aminoindan hydrochloride (86 mg, 0.38 mmol) having the following physical properties:

reactant | 5-acetoxy-2-(tert-butoxycarbonylamino)indan | 0.40 mmol, 120 mg | C(C)(=O)OC=1C=C2CC(CC2=CC1)NC(=O)OC(C)(C)C | C16H21NO4
reactant | hydrochloric acid dioxane | 4N, 2 ml | Cl.O1CCOCC1
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 5-acetoxy-2-aminoindan hydrochloride | 0.38 mmol, 86 mg | Cl.C(C)(=O)OC=1C=C2CC(CC2=CC1)N | InChI=1S/C11H13NO2.ClH/c1-7(13)14-11-3-2-8-4-10(12)5-9(8)6-11;/h2-3,6,10H,4-5,12H2,1H3;1H
